US07820683B2
Aqueous sodium hydroxide (2N, 1 ml, 2 mmol) was added to a solution of methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (480 mg, 1 mmol) in THF (3 ml) and methanol (3 ml). The mixture was stirred at room temperature for 2 hours. After evaporation of the solvents, the pH of the mixture was adjusted to 3 by addition of 2N hydrochloric acid. The precipitate formed was filtered, washed with water and dried under high vacuum to give (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid (435 mg, 97%); Mass spectrum MH+ 447.

reactant | sodium hydroxide | 2 mmol, 2N, 1 ml | [OH-].[Na+]
reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 1 mmol, 480 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid | 435 mg, 97% | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)O)C | C22H18N6O3S
